US08420629B2
Step 1. N-methoxy-N-methyl-3-oxocyclobutanecarboxamide
To a mixture of N,O-dimethylhydroxylamine hydrochloride (5.2 g, 0.054 mol), and 3-oxocyclobutanecarboxylic acid (4.0 g, 0.035 mol) in dichloromethane (30 mL) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (10.0 g, 0.052 mol), 1-hydroxybenzotriazole (7.1 g, 0.052 mol) followed by triethylamine (34 mL, 0.24 mol) at 0° C. The mixture was stirred at rt over night, then quenched with water. The mixture was extracted with EtOAc. The organic layers were dried over MgSO4, concentrated and purified with Combiflash (silica gel, 0-5% for 30 min followed by 5-20% EtOAc/Hex) to give the desired product (4.3 g, 78%) as light yellow oil. LCMS calculated for C7H12NO3(M+H)+: 158.1. Found: 158.3.

reactant | N,O-dimethylhydroxylamine hydrochloride | 0.054 mol, 5.2 g | Cl.CNOC
reactant | 3-oxocyclobutanecarboxylic acid | 0.035 mol, 4.0 g | O=C1CC(C1)C(=O)O | C5H6O3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.052 mol, 10.0 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.052 mol, 7.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.24 mol, 34 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-methoxy-N-methyl-3-oxocyclobutanecarboxamide | 4.3 g, 78% | CON(C(=O)C1CC(C1)=O)C | C7H11NO3
